US06683090B1
(S)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-2-methyl-3-phenylpropenamide)
Prepared as free base by a method analogous to that described in Example 1 from (S)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and E-α-methyl-3-phenylpropenoic acid; MS (ES+) 271 (MH+).

reactant | (S)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@H](C(CC1)CC2)N
reactant | E-α-methyl-3-phenylpropenoic acid | C/C(/C(=O)O)=C\C1=CC=CC=C1 | C10H10O2
product | (S)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(E-2-methyl-3-phenylpropenamide) | N12C[C@H](C(CC1)CC2)NC(\C(=C\C2=CC=CC=C2)\C)=O | C17H22N2O
